US07531663B2
10 cm3 of thionyl chloride are added at 22° C. under an argon atmosphere to 1 g (2.3 mmol) of 3-carboxy-1-(quinol-3-yl)-1H-indole. After stirring at reflux for 1.5 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), successively triturated twice with 10 cm3 of dimethoxyethane and then concentrated to dryness under reduced pressure (2.7 kPa) to give 1 g of 3-chlorocarbonyl-1-(quinol-3-yl)-1H-indole hydrochloride in the form of an orange-coloured solid which is used directly in the following step.

reactant | 3-carboxy-1-(quinol-3-yl)-1H-indole | 2.3 mmol, 1 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C=1C=NC2=CC=CC=C2C1 | C18H12N2O2
reactant | thionyl chloride | 10 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 3-chlorocarbonyl-1-(quinol-3-yl)-1H-indole hydrochloride | 1 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1C=NC2=CC=CC=C2C1 | InChI=1S/C18H11ClN2O.ClH/c19-18(22)15-11-21(17-8-4-2-6-14(15)17)13-9-12-5-1-3-7-16(12)20-10-13;/h1-11H;1H
